US05588083
Synthesis of [3-[2-[4-[bis(2-hydroxyethyl)amino]phenyl]ethenyl] 5,5-dimethyl-2-cyclohexene-1-ylidene]-N,N' diethylbarbiturate
To 3.24 g of [3-[2-[4-[bis (2-hydroxyethyl) amino]phenyl]ethenyl] 5,5-dimethyl-2-cyclohexene-1-ylidene]-N,N'diethylthiobarbiturate and 2.93 g of hexafluorobisphenol A bischloroformate in 100 ml of THF (tetrahydrofuran) there was added dropwise in one hour 1.02 ml of pyridine, at 0° C. The reaction mixture was allowed to heat up to 20° C. After eighteen hours of stirring, the reaction product was precipitated in methanol. M.W.: 9,900, the Tg was measured to be 142°-148° C.

reactant | [3-[2-[4-[bis (2-hydroxyethyl) amino]phenyl]ethenyl] 5,5-dimethyl-2-cyclohexene-1-ylidene]-N,N'diethylthiobarbiturate | 3.24 g | OCCN(C1=CC=C(C=C1)C=CC1=CC(CC(C1)(C)C)=C1C(N(C(N(C1=O)CC)=S)CC)=O)CCO | C28H37N3O4S
reactant | pyridine | 1.02 ml | N1=CC=CC=C1 | C5H5N
reactant | THF | 100 ml | O1CCCC1 | C4H8O
product | [3-[2-[4-[bis(2-hydroxyethyl)amino]phenyl]ethenyl] 5,5-dimethyl-2-cyclohexene-1-ylidene]-N,N' diethylbarbiturate | OCCN(C1=CC=C(C=C1)C=CC1=CC(CC(C1)(C)C)=C1C(N(C(N(C1=O)CC)=O)CC)=O)CCO | C28H37N3O5
